### PR TITLE
feat: Add AddSub example that tobi likes into PaperExamples.

### PR DESCRIPTION
**Pull request by bollu**

### CODE REVIEW

File: SSA/Projects/InstCombine/PaperExamples.lean [hunk 1]
```diff
@@ -6,10 +6,78 @@ import SSA.Projects.InstCombine.Refinement
...
+--   simp [iunfoldr.eq_test state value a init step]
+
+-- theorem iunfoldr_replace_snd
+--   {f : Fin w → α → α × Bool} (state : Nat → α) (value : BitVec w) (a : α)
+--     (init : state 0 = a)
+--     (step : ∀(i : Fin w), f i (state i.val) = (state (i.val+1), value.getLsb i.val)) :
+--     (iunfoldr f a).snd = value := by
+--   simp [iunfoldr.eq_test state value a init step]
+
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/PaperExamples.lean]: Should this be dropped?

File: SSA/Projects/InstCombine/PaperExamples.lean [hunk 2]
```diff
@@ -58,5 +126,47 @@ theorem xor_sub :
...
+  }] ⊑ [llvm (w)| {
+    ^bb0(%X : _, %Y : _):
+      %v3 = llvm.add %X, %Y
+      llvm.return %v3
+  }] := by
+    simp_alive_peephole
+    simp_alive_undef
+    simp_alive_ops
+    intros A B
+    rcases A with rfl | A  <;> (try (simp [Option.bind, Bind.bind]; done)) <;>
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/PaperExamples.lean:104]: Should this be factored out to a BitVec-level statement and added to `forLean.lean`? If tagged as a simple lemma it will also reduce our AliveStatement counts.

Comment (bollu) [reply SSA/Projects/InstCombine/PaperExamples.lean:104]: Done.
